US06777418B2
A mixture of 27.6 g (64.4 mmol) of methyl-4-[2-(5,5,8,8-tetramethyl-3-pyrazol-1-ylmethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)vinyl]benzoate and 97 mL (193 mmol) of 2 N sodium hydroxide in 300 mL of ethyl alcohol was heated at reflux. After 1 hour, the reaction mixture was cooled to room temperature and diluted with 900 mL of water. The reaction mixture was acidified with 2 N HCl and the product was isolated by filtration, washed with water and pentane and dried to give 25.9 g (97%) of 4-[(E)-2-(5,5,8,8-tetramethyl-3-pyrazol-1-ylmethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)vinyl]benzoic acid (m.p.=246.5-248° C.) 6.

reactant | methyl-4-[2-(5,5,8,8-tetramethyl-3-pyrazol-1-ylmethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)vinyl]benzoate | 64.4 mmol, 27.6 g | COC(C1=CC=C(C=C1)C=CC1=CC=2C(CCC(C2C=C1CN1N=CC=C1)(C)C)(C)C)=O | C28H32N2O2
reactant | sodium hydroxide | 193 mmol, 2 N, 97 mL | [OH-].[Na+]
reactant | HCl | 2 N | Cl | ClH
solvent | ethyl alcohol | 300 mL | C(C)O | C2H6O
solvent | water | 900 mL | O | H2O
product | 4-[(E)-2-(5,5,8,8-tetramethyl-3-pyrazol-1-ylmethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)vinyl]benzoic acid | 25.9 g, 97% | CC1(C=2C=C(C(=CC2C(CC1)(C)C)/C=C/C1=CC=C(C(=O)O)C=C1)CN1N=CC=C1)C | C27H30N2O2
